US07611812B2
10 g of Mg—Al hydroxide carbonate of the formula Mg4Al2(OH)12CO3 aq. (Pural MG 61 HT, Sasol, Germany) are dispersed by stirring in 100 ml of deionized water at 60° C. for 15 minutes. Then a solution of 1.5 g of sebacic acid in 50 ml of deionized water is prepared with the addition of sodium hydroxide to a pH of approximately 9 and is added to the Mg—Al hydroxide carbonate suspension. Subsequently a solution of 2 g of stearic acid in a mixture of 50 ml of deionized water and 50 ml of isopropanol is prepared with the addition of sodium hydroxide to a pH of approximately 12 and heating to 70° C. and is added to the reaction mixture. The total mixture is stirred at 80° C. for 6 hours, the pH being held continuously at approximately 9, and then the suspension is filtered, the solid product is washed repeatedly with deionized water and then the washed solid is dried in vacuo at 70° C.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | stearic acid | 2 g | C(CCCCCCCCCCCCCCCCC)(=O)O | C18H36O2
reactant | water | 100 ml | O | H2O
reactant | water | 50 ml | O | H2O
reactant | water | 50 ml | O | H2O
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | sebacic acid | 1.5 g | C(CCCCCCCCC(=O)O)(=O)O | C10H18O4
